US06589970B2
A mixture of 1-benzyl-1H-indole-3-carboxylic acid (3.36 g, 13.37 mmol), oxalyl chloride (5.83 mL, 66.85 mmol), 100 mL methylene chloride and a catalytic amount of DMF was stirred at room temperature under nitrogen for 18 h (overnight). The solvent was removed under reduced pressure. To remove excess oxalyl chloride benzene was added and the solvent removed under reduced pressure to give 1-benzyl-1H-indole-3-carbonyl chloride as a brown oil (13.37 mmol) which was immediately used in step 2 without additional purification.

reactant | 1-benzyl-1H-indole-3-carboxylic acid | 13.37 mmol, 3.36 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)O | C16H13NO2
reactant | oxalyl chloride | 66.85 mmol, 5.83 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-benzyl-1H-indole-3-carbonyl chloride | 13.37 mmol | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)Cl | C16H12ClNO
